US05710139
α-Amino-6,7-dimethoxy-3-(phosphonomethyl)-2-quinolinepropanoic acid
α-Amino-3-(diethylphosphonomethyl)-6,7-dimethoxy-2-quinolinepropanoic acid methyl ester (0.09 g, 0.2 mmol) was refluxed in 6M HCl (15 ml) for 6 h. The mixture was concentrated and dissolved in water. After removal of some undissolved material by filtration, 38 mg of the title compound, α-amino-6,7-dimethoxy-3-(phosphonomethyl)-2-quinolinepropanoic acid was precipitated by addition of acetonitrile. 1H NMR(D2O, 400 MHz: δ 3.22 (dd, 2H), 3.66 (m, 2H), 3.90 (s, 3H), 3.92 (s, 3H), 4.15 (m, 1H), 7.22 (s, 1H), 7.37 (s, 1H), 8.53 (s, 1H).

reactant | α-Amino-3-(diethylphosphonomethyl)-6,7-dimethoxy-2-quinolinepropanoic acid methyl ester | 0.2 mmol, 0.09 g | COC(C(CC1=NC2=CC(=C(C=C2C=C1CP(=O)(OCC)OCC)OC)OC)N)=O | C20H29N2O7P
solvent | HCl | 6M, 15 ml | Cl | ClH
product | α-Amino-6,7-dimethoxy-3-(phosphonomethyl)-2-quinolinepropanoic acid | NC(C(=O)O)CC1=NC2=CC(=C(C=C2C=C1CP(=O)(O)O)OC)OC | C15H19N2O7P
